US07176227B2
Synthesis of 5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester
In carbon tetrachloride (100 ml), 5-methyl-benzo[b]thiophene-2-carboxylic acid ethyl ester (2.36 g) prepared by the method described in PCT Patent WO 0153291 was dissolved. The solution was added with N-bromosuccinimide (2.00 g) and azobisisobutyronitrile (140.7 mg), and the whole was stirred for 17 hours under thermal reflux. After the insoluble matter had been removed through filtration, the residue was recrystallized with methanol. Then, the crystal was dissolved in DMF (20 ml) and then added with potassium phthalimide (1.18 g), followed by stirring overnight at room temperature. After the solvent had been distilled off, the residue was added with water and extracted with chloroform. The organic layer was washed with saturated saline solution and dried with anhydrous sodium sulfate, thereby obtaining the subject compound (1.15 g) as a pale-yellow solid.

reactant | 5-methyl-benzo[b]thiophene-2-carboxylic acid ethyl ester | 2.36 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C | C12H12O2S
reactant | N-bromosuccinimide | 2.00 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 140.7 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | 1.15 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)CN2C(C1=CC=CC=C1C2=O)=O | C20H15NO4S
